### PR TITLE
[Merged by Bors] - feat : port Data.Int.Dvd.Basic

### PR DESCRIPTION
**Pull request by kim-em**
fc2ed6f838ce7c9b7c7171e58d78eaf7b438fb0e

Easy.

### CODE REVIEW

File: Mathlib/Data/Int/Dvd/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,66 @@
...
+#align int.eq_one_of_mul_eq_one_left Int.eq_one_of_mul_eq_one_left
+
+theorem of_nat_dvd_of_dvd_nat_abs {a : ℕ} : ∀ {z : ℤ} (_ : a ∣ z.natAbs), ↑a ∣ z
+  | Int.ofNat _, haz => Int.coe_nat_dvd.2 haz
+  | -[k+1], haz => by
+    change ↑a ∣ -(k + 1 : ℤ)
+    apply dvd_neg_of_dvd
+    apply Int.coe_nat_dvd.2
+    exact haz
+#align int.of_nat_dvd_of_dvd_nat_abs Int.of_nat_dvd_of_dvd_nat_abs
```
Comment (ChrisHughes24) [inline Mathlib/Data/Int/Dvd/Basic.lean:55]:
```suggestion
theorem ofNat_dvd_of_dvd_natAbs {a : ℕ} : ∀ {z : ℤ} (_ : a ∣ z.natAbs), ↑a ∣ z
  | Int.ofNat _, haz => Int.coe_nat_dvd.2 haz
  | -[k+1], haz => by
    change ↑a ∣ -(k + 1 : ℤ)
    apply dvd_neg_of_dvd
    apply Int.coe_nat_dvd.2
    exact haz
#align int.of_nat_dvd_of_dvd_nat_abs Int.ofNat_dvd_of_dvd_natAbs
```

**Comment by ChrisHughes24** [comment]
bors merge

**Comment by PatrickMassot** [comment]
bors merge
